US07479502B2
Proceeding as in Reference 21, but substituting 3′-chloro-5-formyl-6-methoxy-biphenyl-3-sulfonamide and 3-phenylpropanoyl chloride, gave 3′-chloro-5-formyl-6-methoxy-N-(3-phenylpropanoyl)-biphenyl-3-sulfonamide.

reactant | 3′-chloro-5-formyl-6-methoxy-biphenyl-3-sulfonamide | ClC=1C=C(C=CC1)C1=CC(=CC(=C1OC)C=O)S(=O)(=O)N | C14H12ClNO4S
reactant | 3-phenylpropanoyl chloride | C1(=CC=CC=C1)CCC(=O)Cl | C9H9ClO
product | 3′-chloro-5-formyl-6-methoxy-N-(3-phenylpropanoyl)-biphenyl-3-sulfonamide | ClC=1C=C(C=CC1)C1=CC(=CC(=C1OC)C=O)S(=O)(=O)NC(CCC1=CC=CC=C1)=O | C23H20ClNO5S
